US05716944
2-Bromomethyl-5-nitrothiophene and trimethylphosphite ((CH3O)3 P) were treated in the same manner as in Reference Example 43 to yield 2-dimethoxyphosphorylmethyl-5-nitrothiophene as an oil.

reactant | 2-Bromomethyl-5-nitrothiophene | BrCC=1SC(=CC1)[N+](=O)[O-] | C5H4BrNO2S
reactant | trimethylphosphite | COP(OC)OC | C3H9O3P
product | 2-dimethoxyphosphorylmethyl-5-nitrothiophene | COP(=O)(OC)CC=1SC(=CC1)[N+](=O)[O-] | C7H10NO5PS
